US07847101B2
Preparation 6: Synthesis of 4-Amino-2-fluoro-N-methylbenzenesulfonamide
The above prepared N-(3-fluoro-4-methylsulfamoylphenyl)acetamide (1.55 g, 6.3 mmol) was suspended in 40 mL of 6M HCl and heated to reflux for 1 hr. The reaction was cooled in an ice bath and an NaOH solution was added to adjust the mixture to pH 5. The resulting white precipitate was isolated by filtration and was washed with water and dried to yield 1.07 g (83%) of the title compound. MS (m/z, ES+): 205.0 (M+1, 100%); 1H NMR (500 MHz, ppm, DMSO-d6): 7.35 (m, 1H), 7.12 (m, 1H), 6.40 (m, 2H), 6.23 (s, 2H), 2.40 (s, 3H).

reactant | N-(3-fluoro-4-methylsulfamoylphenyl)acetamide | 6.3 mmol, 1.55 g | FC=1C=C(C=CC1S(NC)(=O)=O)NC(C)=O | C9H11FN2O3S
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 6M, 40 mL | Cl | ClH
product | 4-Amino-2-fluoro-N-methylbenzenesulfonamide | 1.07 g, 83% | NC1=CC(=C(C=C1)S(=O)(=O)NC)F | C7H9FN2O2S
